US06638927B2
LiAIH4 (3.5 equivalents) was suspended in THF and brought to reflux. 2-fluoro-4-methoxy-1-(2-nitro-vinyl)-benzene (1 equivalent) was dissolved in THF and added dropwise to the LiAIH4. The reaction was allowed to proceed at reflux overnight. The reaction was then cooled in an ice bath and H2SO4 was added dropwise. The reaction was extracted with ether. The ether fractions were discarded. The aqueous layer was adjusted to pH 12 with 5% NaOH and extracted with ether (3×). Combined ether fractions were washed with brine and dried over Na2SO4. Solvent was removed to yield 2-(2-fluoro-4-methoxy-phenyl)-ethylamine as an oil, which was used without further purification.

reactant | 2-fluoro-4-methoxy-1-(2-nitro-vinyl)-benzene | 1 equivalent | FC1=C(C=CC(=C1)OC)C=C[N+](=O)[O-] | C9H8FNO3
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
solvent | THF | C1CCOC1 | C4H8O
product | 2-(2-fluoro-4-methoxy-phenyl)-ethylamine | FC1=C(C=CC(=C1)OC)CCN | C9H12FNO
